US04168379
2-Benzyl-4-isobutyl-5-ethoxyoxazole is reacted with 2,5-dihydrofuran, using the method described in Example 22. 38 g of crude 4-benzyl-6-isobutyl-1,3-dihydro-furo[3,4-c]pyridine-7-ol are obtained. Recrystallization from ethyl acetate gives a pure product, melting point 174°-175° C.

reactant | 2-Benzyl-4-isobutyl-5-ethoxyoxazole | C(C1=CC=CC=C1)C=1OC(=C(N1)CC(C)C)OCC | C16H21NO2
reactant | 2,5-dihydrofuran | O1CC=CC1 | C4H6O
product | 4-benzyl-6-isobutyl-1,3-dihydro-furo[3,4-c]pyridine-7-ol | 38 g | C(C1=CC=CC=C1)C1=NC(=C(C2=C1COC2)O)CC(C)C | C18H21NO2
